US07265120B2
A solution of N′-[6-(2-bromophenyl)-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide (285 mg) in a mixture of water (2 ml) and 4N hydrogen chloride in dioxane (6 ml) was stirred at 20-25° C. for 18 hours. After addition of water (18 ml), the mixture was neutralized with 1N aq. NaOH to give a solid. The solid was collected by filtration and purified by column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give 3-amino-5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile as a solid (163 mg).

reactant | N′-[6-(2-bromophenyl)-3-cyano-5-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinyl]-N,N-dimethylimidoformamide | 285 mg | BrC1=C(C=CC=C1)C1=C(N=C(C(=N1)N=CN(C)C)C#N)C1=NN(C(C=C1)=O)C(C)C | C21H20BrN7O
reactant | NaOH | 1N | [OH-].[Na+]
solvent | water | 2 ml | O | H2O
solvent | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | water | 18 ml | O | H2O
product | 3-amino-5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarbonitrile | 163 mg | NC=1C(=NC(=C(N1)C1=C(C=CC=C1)Br)C1=NN(C(C=C1)=O)C(C)C)C#N | C18H15BrN6O
